US06919356B2
Part D. Preparation of 1-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-3-{1-[2-(4-fluorophenyl)-ethyl]-4,4-dimethylpiperidin-3-ylmethyl}-urea
A solution of 1-[2-(4-fluorophenyl)ethyl]-4,4-dimethyl-piperidin-3-ylmethylamine (53 mg, 199 μmol) and [3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-carbamic acid phenyl ester (50 mg, 199 μmol) in N,N-dimethylformamide (1.0 mL) was treated with triethylamine (55 μL, 398 μmol). After 18 hours, the mixture was concentrated under vacuum. The residue was purified by flash chromatography, eluting with 5% methanol in dichloromethane containing 0.5% aqueous ammonium hydroxide, providing an amorphous solid (50 mg, 50%). 1H NMR (300 MHz, CDCl3) δ8.45 (s, 1H), 7.66 (s, 1H), 7.62 (s, 1H), 7.09 (m, 2H), 7.07 (s, 1H), 6.91 (t, J=9 Hz, 2H), 6.23 (m, 1H), 4.13 (s, 3H), 3.38 (m, 1H), 3.10 (m, 2H), 2.85 (m, 3H), 2.74 (m, 2H), 2.62 (q, J=7 Hz, 2H), 2.45 (m, 1H), 2.32 (m, 1H), 1.8-1.6 (m, 2H), 1.46 (m, 1H), 1.21 (t, J=7 Hz, 3H), 1.02 (s, 3H), 0.88 (s, 3H). Mass spec (ES+) m/z 494.3 (M+H+, 100%).

reactant | 1-[2-(4-fluorophenyl)ethyl]-4,4-dimethyl-piperidin-3-ylmethylamine | 199 μmol, 53 mg | FC1=CC=C(C=C1)CCN1CC(C(CC1)(C)C)CN | C16H25FN2
reactant | [3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-carbamic acid phenyl ester | 199 μmol, 50 mg | C1(=CC=CC=C1)OC(NC1=CC(=CC(=C1)C1=NN=NN1C)CC)=O | C17H17N5O2
reactant | triethylamine | 398 μmol, 55 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 1-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-3-{1-[2-(4-fluorophenyl)-ethyl]-4,4-dimethylpiperidin-3-ylmethyl}-urea | 50 mg, 50% | C(C)C=1C=C(C=C(C1)C1=NN=NN1C)NC(=O)NCC1CN(CCC1(C)C)CCC1=CC=C(C=C1)F | C27H36FN7O
